US04112098
D. cis-8-Chloro-6-(3-ethoxy-3-oxo-1-propenyl)-5,6-dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid, ethyl ester
7.5 g (0.039 mole) of 6-chloro-3-diazooxindole is suspended in 400 ml of xylene and 8.4 g (0.086 mole) of ethyl propiolate added. The reaction mixture is heated 7 hours in a 160° silicone oil bath under nitrogen. A brown solid forms on cooling to room temperature (9.0 g, 59% yield). Recrystallization from dichloromethanemethanol gives 8.5 g of analytically pure title compound, m.p. 215°-217°.

reactant | 6-chloro-3-diazooxindole | 0.039 mole, 7.5 g | ClC1=CC=C2C(C(NC2=C1)=O)=[N+]=[N-] | C8H4ClN3O
reactant | ethyl propiolate | 0.086 mole, 8.4 g | C(C#C)(=O)OCC | C5H6O2
solvent | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
product | cis-8-Chloro-6-(3-ethoxy-3-oxo-1-propenyl)-5,6-dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid, ethyl ester | 59% yield | ClC=1C=CC=2C=3N(C(N(C2C1)\C=C/C(=O)OCC)=O)N=C(C3)C(=O)OCC | C18H16ClN3O5
